US07645755B2
d) 1-[4-(4-Amino-phenyl)-piperidin-1-yl]-ethanone
A solution of 4-(4-nitro-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (as prepared in the previous step, 304 mg, 1.00 mmol) in a 1:1 mixture of DCM/TFA (10 mL) was stirred at room temperature for 3 h and concentrated. The residue was dried in vacuo overnight, was taken up in CH2Cl2 (10 mL) and was cooled to 0° C. To this solution, Et3N (280 μL, 2 mmol) was added drop wise, followed by acetic anhydride (102 μL, 1 mmol). The resulting mixture was stirred at 0° C. for 1 h and allowed to warm to room temperature. The reaction mixture was washed with brine, and the organic layer was separated, dried and concentrated. The resulting product was reduced to obtain the title compound (143 mg, 65%) using a procedure similar to Example 4, step (d). 1H-NMR (CDCl3; 400 MHz): δ 6.97 (d, 2H, J=8.4 Hz), 6.64 (d, 2H, J=8.4 Hz), 4.75 (m, 1H), 3.93 (m, 1H), 3.13 (m, 3H), 2.66 (m, 2H), 2.12 (s, 3H), 1.84 (m, 2H), 1.57 (m, 2H).

reactant | 4-(4-nitro-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H20N2O4
reactant | Et3N | 2 mmol, 280 μL | CCN(CC)CC | C6H15N
reactant | acetic anhydride | 1 mmol, 102 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM TFA | 10 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | 1-[4-(4-Amino-phenyl)-piperidin-1-yl]-ethanone | 143 mg, 65% | NC1=CC=C(C=C1)C1CCN(CC1)C(C)=O | C13H18N2O
